US07705142B2
Sodium acetate (120 gm) is added to water (400 ml) and thiourea (41.6 gm) at 25-30° C., cooled to 12° C. and then (Z)-4-chloro-2-[[(methoxycarbonyl)methoxy]imino]acetoacetic acid (100 gm) Is added at 12° C. The contents are stirred for 3 hours at 25-30° C., cooled to 5° C., pH is adjusted to 3.0 with conc. hydrochloric acid at 5-0° C. Then the reaction mass is cooled to 0° C. and stirred for 1 hour at 0-5° C. The resulting solid is filtered, washed two times with chilled water (each time 100 ml) and dried at 100-105° C. to give 95 gm of (Z)-2-(2-aminothiazol-4-yl)-(methoxycarbonyl)methoxyimino acetic acid (High Performance Liquid Chromatographic (HPLC) purity: 99.5%). B) 2,2′-Dithiobis(benzothiazole) (117.75 gm) and acetonitrile (580 ml) are added to (Z)-2-(2-aminothiazol-4-yl)-(methoxycarbonyl)methoxyimino acetic acid (75 gm) at 25-30° C. and then distilled off 50 ml of acetonitrile under vacuum at 45-50° C. The contents are cooled to 25° C. under N2 atmosphere, flushed with 20 ml of acetonitrile and cooled to 13° C. Triethylamine (30 gm) is added to the contents at 13° C., stirred for 30 minutes at 13° C. under N2 atmosphere and then cooled to 0° C. Triphenylphosphine (96 gm) is added to the reaction mass at 0° C., stirred for 1 hour at 0-2° C. and cooled to −10° C. Then the reaction mass is stirred for 4 to 5 hours at −10° C., filtered the mass and washed with chilled methanol. Methanol (470 ml) is added to the reaction mass at 25° C., cooled to −5° C. under N2 atmosphere, the wet cake is added for 5 minutes at −5° C. and stirred for 1 hour at −5° C. Filtered the mass, washed with methanol (100 ml) and dried to yield 93.75 gm of 2-mercapto-1,3-benzothiazolyl-(Z)-2-(2-aminothiazol-4-yl)-2-(methoxycarbonyl)-methoxyimino acetate (HPLC purity 98.2%).

reactant | Sodium acetate | 120 gm | C(C)(=O)[O-].[Na+]
reactant | thiourea | 41.6 gm | NC(=S)N | CH4N2S
reactant | (Z)-4-chloro-2-[[(methoxycarbonyl)methoxy]imino]acetoacetic acid | 100 gm | ClCC(/C(/C(=O)O)=N/OCC(=O)OC)=O | C7H8ClNO6
reactant | hydrochloric acid | Cl | ClH
solvent | water | 400 ml | O | H2O
product | (Z)-2-(2-aminothiazol-4-yl)-(methoxycarbonyl)methoxyimino acetic acid | 95 gm | NC=1SC=C(N1)/C(/C(=O)O)=N/OCC(=O)OC | C8H9N3O5S
